US06087380
2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 10 from 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 75% of theory, C22H25N5O3S (439.54) Rf value: 0.14 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) ##EQU7##

reactant | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C(CC)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 75% | Cl.C(CC)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)O | InChI=1S/C22H25N5O3S.ClH/c1-2-10-27(11-9-20(28)29)22(30)15-5-8-18-17(12-15)26-19(31-18)13-25-16-6-3-14(4-7-16)21(23)24;/h3-8,12,25H,2,9-11,13H2,1H3,(H3,23,24)(H,28,29);1H
